US03995054
To the acid chloride, thus prepared, is added 40 mls. of anhydrous ether and 1.49 g. of 1-dodecanol, followed, at 0°, by 0.8 mls. of pyridine (d20 = 0.982). A white precipitate forms immediately. The mixture is stirred at 24° overnight and then water, ether, and pentane are added to the reaction mixture, the organic layer separated, washed with 3N sulfuric acid, aqueous 15% potassium carbonate, water, and brine, dried over calcium sulfate, and the solvent removed to yield dodecyl 3-cyclopropanepropionate, boiling point 116° at 0.05 mm.

reactant | ether | CCOCC | C4H10O
reactant | 1-dodecanol | C(CCCCCCCCCCC)O | C12H26O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | pentane | CCCCC | C5H12
product | dodecyl 3-cyclopropanepropionate | C1CC1CCC(=O)OCCCCCCCCCCCC | C18H34O2
